US09284323B2
(S)-ethyl 2-tert-butoxy-2-(5,7-difluoro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate was prepared in a similar was as (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate in Example 20, except using 1-(2,4-difluorophenyl)propan-2-one instead of 1-(3-bromophenyl)propan-2-one. 1H-NMR: 400 MHz, (CDCl3) δ: 7.82 (s, 1H), 7.39 (d, J=5.47 Hz, 1H), 6.99 (m, 1H), 5.63 (s, 1H), 4.18 (m, 2H), 2.49 (s, 3H), 1.11 (s+t, 12H). 19F-NMR: 377 MHz, (CDCl3) δ: −73.27 (s, 3F), −109.1 (m, 1F), −117.5 (m, 1F).

reactant | (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)OC(C)(C)C)C | C20H22BrF3O6S
reactant | 1-(2,4-difluorophenyl)propan-2-one | FC1=C(C=CC(=C1)F)CC(C)=O | C9H8F2O
product | (S)-ethyl 2-tert-butoxy-2-(5,7-difluoro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC(=CC(=C2C=C1C)F)F)OS(=O)(=O)C(F)(F)F | C20H21F5O6S
